US09421213B2
To a 3 L fixed vessel was charged 3-chlorobenzoperoxoic acid (324 g, 1444.67 mmol) portionwise to 1H-pyrrolo[2,3-b]pyridine (150 g, 1244.33 mmol) in DME (750 ml) and heptane (1500 ml) at 20° C. over a period of 1 hour under nitrogen. The resulting slurry was stirred at 20° C. for 18 hours. The precipitate was collected by filtration, washed with DME/heptane (½ 5 vol) (750 ml) and dried under vacuum at 40° C. to afford 1H-pyrrolo[2,3-b]pyridine 7-oxide 3-chlorobenzoate (353 g, 97%) as a cream solid, which was used without further purification; 1H NMR (400 MHz, DMSO-d6) 6.59 (1H, d), 7.07 (1H, dd), 7.45 (1H, d), 7.55 (1H, t), 7.65 (1H, dd), 7.70 (1H, ddd), 7.87-7.93 (2H, m), 8.13 (1H, d), 12.42 (1H, s), 13.32 (1H, s). b) A 2M solution of potassium carbonate (910 ml, 1819.39 mmol) was added dropwise to a stirred slurry of 1H-pyrrolo[2,3-b]pyridine 7-oxide 3-chlorobenzoate (352.6 g, 1212.93 mmol) in water (4.2 vol) (1481 ml) at 20° C., over a period of 1 hour adjusting the pH to 10. To the resulting slurry was charged water (2 vol) (705 ml) stirred at 20° C. for 1 hour. The slurry was cooled to 0° C. for 1 hour and the slurry filtered, the solid was washed with water (3 vol 1050 ml) and dried in a vacuum oven at 40° C. over P2O5 overnight to afford 1H-pyrrolo[2,3-b]pyridine 7-oxide (118 g, 73%); 1H NMR (400 MHz, DMSO-d6) 6.58 (1H, d), 7.06 (1H, dd), 7.45 (1H, d), 7.64 (1H, d), 8.13 (1H, d), 12.44 (1H, s); m/z: (ES+) (MH+MeCN)+, 176.03. c) To a 3 L fixed vessel under an atmosphere of nitrogen was charged methanesulfonic anhydride (363 g, 2042.71 mmol) portionwise to 1H-pyrrolo[2,3-b]pyridine 7-oxide (137 g, 1021.36 mmol), and tetramethylammonium bromide (236 g, 1532.03 mmol) in DMF (10 vol) (1370 ml) cooled to 0° C. over a period of 30 minutes under nitrogen. The resulting suspension was stirred at 20° C. for 24 hours. The reaction mixture was quenched with water (20 vol, 2740 ml) and the reaction mixture was adjusted to pH 7 with 50% sodium hydroxide (approx 200 ml). Water (40 vol, 5480 ml) was charged and the mixture cooled to 10° C. for 30 minutes. The solid was filtered, washed with water (20 vol, 2740 ml) and the solid disssolved into DCM/methanol (4:1, 2000 ml), dried over MgSO4 and evaporated to provide a light brown solid. The solid was taken up in hot methanol (2000 ml) and water added dropwise until the solution went turbid and left overnight. The solid was filtered off and discarded, the solution was evaporated and the solid recrystallised from MeCN (4000 ml). The solid was filtered and washed with MeCN to afford 4-bromo-1H-pyrrolo[2,3-b]pyridine (68.4 g, 34%) as a pink solid; 1H NMR (400 MHz, DMSO-d6) 6.40-6.45 (1H, m), 7.33 (1H, d), 7.57-7.63 (1H, m), 8.09 (1H, t), 12.02 (1H, s); m/z: (ES+) MH+, 198.92. The crude mother liquors were purified by Companion RF (reverse phase C18, 415 g column), using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents (starting at 26% upto 46% MeCN). Fractions containing the desired compound were evaporated to afford 4-bromo-1H-pyrrolo[2,3-b]pyridine (5.4 g, 3%) as a pink solid; 1H NMR (400 MHz, DMSO-d6) 6.43 (1H, dd), 7.33 (1H, d), 7.55-7.66 (1H, m), 8.09 (1H, d), 12.03 (1H, s); m/z: (ES+) MH+, 199.22. d) Sodium hydroxide (31.4 ml, 188.35 mmol) was added to 4-bromo-1H-pyrrolo[2,3-b]pyridine (10.03 g, 50.91 mmol), tosyl chloride (19.41 g, 101.81 mmol) and tetrabutylammonium hydrogensulfate (0.519 g, 1.53 mmol) in DCM (250 ml) at RT. The resulting mixture was stirred at RT for 1 hour. The reaction was quenched through the addition of saturated aqueous NH4Cl, the organic layer removed and the aqueous layer further extracted with DCM (3×25 ml). The combined organics were washed with brine (100 ml), dried over Na2SO4 and then concentrated under reduced pressure. The residue was purified by flash chromatography on silica, eluting with a gradient of 0 to 20% EtOAc in isohexane. Pure fractions were evaporated to afford 4-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (14.50 g, 81%); 1H NMR (400 MHz, CDCl3) 2.38 (3H, s), 6.64 (1H, d), 7.28 (2H, d), 7.36 (1H, d), 7.78 (1H, d), 8.06 (2H, d), 8.22 (1H, d); m/z: (ES+) MH+, 353.23. e) 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) (3.37 g, 4.13 mmol) was added in one portion to 4-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (14.5 g, 41.28 mmol), bis(pinacolato)diboron (20.97 g, 82.57 mmol) and potassium acetate (12.16 g, 123.85 mmol) in anhydrous DMF (300 ml) at RT. The resulting mixture was stirred under nitrogen at 90° C. for 24 hours. After cooling to RT, 1N aqueous NaOH was added until the aqueous layer was taken to pH 10. The aqueous layer was washed with DCM (1 L), carefully acidified to pH 4 with 1 N aqueous HCl, and then extracted with DCM (3×300 ml). The organic layer was concentrated under reduced pressure to afford a dark brown solid. The solid was triturated with diethyl ether, filtered and dried to afford 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (7.058 g, 43%); 1H NMR (400 MHz, CDCl3) 1.36 (12H, s), 2.35 (3H, s), 7.01 (1H, d), 7.22 (2H, d), 7.52 (1H, d), 7.74 (1H, d), 8.03 (2H, m), 8.42 (1H, d); m/z: (ES+) MH+, 399.40. The mother liquors were concentrated in vacuo and the residue triturated in isohexane, filtered and dried to afford a further sample of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (3.173 g, 19%); 1H NMR (400 MHz, CDCl3) 1.36 (12H, s), 2.35 (3H, s), 7.01 (1H, d), 7.23 (2H, d), 7.52 (1H, d), 7.74 (1H, d), 8.03 (2H, d), 8.42 (1H, d); m/z: (ES+) MH+, 399.40.

reactant | Sodium hydroxide | 188.35 mmol, 31.4 ml | [OH-].[Na+]
reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 50.91 mmol, 10.03 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | tosyl chloride | 101.81 mmol, 19.41 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
catalyst | tetrabutylammonium hydrogensulfate | 1.53 mmol, 0.519 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 14.50 g, 81% | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C14H11BrN2O2S
